US06468998B1
1-Adamantanesulfonyl chloride and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine were reacted under the same conditions as in Example 53 to give (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-adamantanesulfonamide.

reactant | 1-Adamantanesulfonyl chloride | C12(CC3CC(CC(C1)C3)C2)S(=O)(=O)Cl | C10H15ClO2S
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-adamantanesulfonamide | FC1=CC=C(C=C1)CCN1C[C@H](CC1)NS(=O)(=O)C12CC3CC(CC(C1)C3)C2 | C22H31FN2O2S
